US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[[1-(4-pyridyl)piperidin-4-yl]carbonyl]-1,2-cyclohexanediamine hydrochloride
1-(4-Pyridyl)piperidine-4-carboxylic acid (Tetrahedron, 1998, Vol. 44, p. 7095) (206 mg) was suspended in dichloromethane (50 ml), thionyl chloride (144 μl) was added under ice cooling, and the mixture was stirred for 30 minutes. After triethylamine (969 μl) was added to the reaction mixture, (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride (328 mg) was added, and the mixture was stirred at room temperature for 30 minutes. After the reaction mixture was concentrated under reduced pressure, and water was added to the residue, the solution was concentrated under reduced pressure, and precipitate deposited was collected by filtration to obtain the title compound (310 mg) as a pale brown solid.

reactant | 1-(4-Pyridyl)piperidine-4-carboxylic acid | 206 mg | N1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C11H14N2O2
reactant | thionyl chloride | 144 μl | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 969 μl | C(C)N(CC)CC | C6H15N
reactant | (±)-cis-N-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 328 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[[1-(4-pyridyl)piperidin-4-yl]carbonyl]-1,2-cyclohexanediamine hydrochloride | 310 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C1CCN(CC1)C1=CC=NC=C1 | InChI=1S/C26H30ClN5O2.ClH/c27-19-5-6-21-18(15-19)16-24(29-21)26(34)31-23-4-2-1-3-22(23)30-25(33)17-9-13-32(14-10-17)20-7-11-28-12-8-20;/h5-8,11-12,15-17,22-23,29H,1-4,9-10,13-14H2,(H,30,33)(H,31,34);1H/t22-,23+;/m0./s1
